US07902194B2
3,4,6-Trichloro-pyridazine (34.39 g, 187.5 mmol) in 100 mL acetic acid was heated at reflux for three hours. The resulting mixture was cooled to room temperature and filtered. The filtrate was diluted with ethylacetate. This was washed three times with water, washed with brine, dried over anhydrous MgSO4, concentrated in vacuo, and purified by flash chromatography (30% ethylacetate/hexanes) to yield 4,6-Dichloro-2H-pyridazin-3-one (6.143 g, 37.23 mmol). MS (ESI) 165.0 (M+H)+.

reactant | 3,4,6-Trichloro-pyridazine | 187.5 mmol, 34.39 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4,6-Dichloro-2H-pyridazin-3-one | 37.23 mmol, 6.143 g | ClC=1C(NN=C(C1)Cl)=O | C4H2Cl2N2O
